US08445530B2
4-Ethoxy-3-hydroxy-benzoic acid ethyl ester
3,4-Dihydroxybenzoic acid ethyl ester (3.00 g, 16.0 mmol) was suspended in DMF (10 ml), potassium carbonate (2.21 g, 16.0 mmol) was added, the mixture was stirred for 5 min at room temperature, and then iodoethane (2.49 g, 16.0 mmol) was added. The mixture was stirred overnight, the addition of potassium carbonate and of iodoethane was repeated, and the mixture was stirred overnight again. The mixture was partitioned between 2 N hydrochloric acid and EA, the aqueous phase extracted with EA, and the combined organic extracts were washed with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution, dried over sodium sulfate, filtered, and evaporated to dryness. The residue was purified by silica gel chromatography (HEP/EA gradient).

reactant | 3,4-Dihydroxybenzoic acid ethyl ester | 16.0 mmol, 3.00 g | C(C)OC(C1=CC(=C(C=C1)O)O)=O | C9H10O4
reactant | potassium carbonate | 16.0 mmol, 2.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 16.0 mmol, 2.49 g | ICC | C2H5I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Ethoxy-3-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OCC)O)=O | C11H14O4
